US05102877
To a solution of oxalyl chloride (7.7 ml) in dichloromethane (200 ml) was added dropwise dimethyl sulfoxide (7.7 ml) at -78° C. After stirring at -78° C. for 20 minutes, to the mixture was added dropwise a solution of 1-allyloxycarbonyl-4-hydroxymethylpiperidine (14 g) in dichloromethane (20 ml). After stirring at -78° C. for 30 minutes, to the mixture was added dropwise triethylamine (35 ml) and the resulting mixture was allowed to stir at 0° C. The solution was washed with brine and dried. Evaporation of the solvent gave an oil, which was dissolved in tetrahydrofuran (100 ml). To the solution was added 1N-ethylmagnesium bromide in tetrahydrofuran solution (35 ml) at 0° C. After stirring for 1 hour at 0° C., to the solution was added saturated aqueous ammonium chloride, and the organic layer was separated. The dried organic layer was evaporated, and the residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1, V/V) to give 1-allyloxycarbonyl-4-(1-hydroxypropyl)piperidine (12.8 g).

reactant | oxalyl chloride | 7.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-allyloxycarbonyl-4-hydroxymethylpiperidine | 14 g | C(C=C)OC(=O)N1CCC(CC1)CO | C10H17NO3
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 7.7 ml | CS(=O)C | C2H6OS
product | 1-allyloxycarbonyl-4-(1-hydroxypropyl)piperidine | 12.8 g | C(C=C)OC(=O)N1CCC(CC1)C(CC)O | C12H21NO3
